US04727081
(a) 4-[3-[(3-Methylpiperidin-1-yl)methyl]phenoxy]butanamine
5.13 g (0.025 mol) of 3-((methylpiperidin-1-yl)methyl) phenol (Example 64 a) are added to a suspension of 1.0 g (0.025 mol) of sodium hydride (60%) in absolute DMF and the mixture is stirred overnight at room temperature. After the addition of 2.58 g (0.025 mol) of 4chlorobutyronitrile, the reaction mixture is stirred at 60° C. for 7 hours, and then poured into ice water and extracted with ether, and the organic phase is washed with 5% NaOH. After dehydration over Na2SO4, the ethereal phase is introduced dropwise into a suspension of 1.14 g (0.03 mol) of LiAlH4 in absolute ether and then hydrolysed with 2.2 ml H2O. After removal of the inorganic constituents by filtration and evaporation of the solvent under vacuum, 3.66 g of a pale yellow oil are left behind.

reactant | 3-((methylpiperidin-1-yl)methyl) phenol | 0.025 mol, 5.13 g | CC1N(CCCC1)CC=1C=C(C=CC1)O | C13H19NO
reactant | sodium hydride | 0.025 mol, 1.0 g | [H-].[Na+]
reactant | 4chlorobutyronitrile | 0.025 mol, 2.58 g | ClCCCC#N | C4H6ClN
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | LiAlH4 | 0.03 mol, 1.14 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | DMF | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
solvent | H2O | 2.2 ml | O | H2O
product | 4-[3-[(3-Methylpiperidin-1-yl)methyl]phenoxy]butanamine | CC1CN(CCC1)CC=1C=C(OCCCCN)C=CC1 | C17H28N2O
